US09260416B2
Step 2: [4-(4-Methoxy-benzylsulfanyl)-pyrazol-1-yl]acetic acid ethyl ester
(4-Iodo-pyrazol-1-yl)-acetic acid ethyl ester (1.8 g, 10.3 mmol), 4-methoxybenzyl mercaptan (1.43 mL, 10.3 mmol), Xantphos (0.298 g, 0.515 mmol) and then Hünig's base (3.7 mL, 21.2 mmol) were dissolved in dioxane (100 mL). The reaction was purged with N2 (g) for 10 minutes and then tris(dibenzylideneacetone)dipalladium(0) (0.235 g, 0.258 mmol) was added. The reaction was heated to 90° C. for 2 hours then cooled and diluted with EtOAc. The organic portion was washed with H2O and brine, with back-extraction, then dried and concentrated. The crude material was purified on silica gel (0-20% EtOAc in hexanes) to afford the title compound.

reactant | (4-Iodo-pyrazol-1-yl)-acetic acid ethyl ester | 10.3 mmol, 1.8 g | C(C)OC(CN1N=CC(=C1)I)=O | C7H9IN2O2
reactant | 4-methoxybenzyl mercaptan | 10.3 mmol, 1.43 mL | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | Xantphos | 0.515 mmol, 0.298 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Hünig's base | 21.2 mmol, 3.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.258 mmol, 0.235 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [4-(4-Methoxy-benzylsulfanyl)-pyrazol-1-yl]acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)SCC1=CC=C(C=C1)OC)=O | C15H18N2O3S
